US09034880B2
Preparation of 8-Isopropyl-2-methyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 392)
To a solution of 8-Isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.2 g, 0.877 mmol) in N-methyl 2-pyrolidone (2 mL) was added powdered potassium hydroxide (0.2 g, 3.5 mmol) and allowed to stir for 10 min at RT. 2-methyl-5-vinyl pyridine (0.104 g, 0.877 mmol) was added and stirred for further at 120 deg C. for 20 h. Reaction mixture was diluted with water (30 mL) and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure. The crude was purified through column chromatography (5% Me OH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) and further purified with preparative TLC to provide the desired compound as brown oil (0.045 g, 15% yield). 8-Isopropyl-2-methyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.045 g, 0.129 mmol) was dissolved in THF (2.0 mL). A solution of oxalic acid dihydrate (0.016 g, 0.129 mmol) in THF (2 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as off white solid (0.045 g, 80% yield).

reactant | 8-Isopropyl-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.877 mmol, 0.2 g | C(C)(C)C1=CC=2C3=C(NC2C=C1)CCN(C3)C | C15H20N2
reactant | potassium hydroxide | 3.5 mmol, 0.2 g | [OH-].[K+]
reactant | 2-methyl-5-vinyl pyridine | 0.877 mmol, 0.104 g | CC1=NC=C(C=C1)C=C | C8H9N
solvent | N-methyl 2-pyrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 mL | O | H2O
product | 8-Isopropyl-2-methyl-5-[2-(6-methyl-pyridin-3-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.045 g, 15% yield | C(C)(C)C1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C | C23H29N3
